US07504513B2
To a solution of 5,6-Dimethoxy-1H-benzimidazole (1.0 g, 5.65 mmol) in 1-methyl-2-pyrrolidinone (10 ml) at 0° C. was added NaH (60% dispersion; 339 mg, 8.475 mmol). After gas evolution had stopped, 2,4-Dibromo-thiazole-5-carboxylic acid methyl ester (1.7 g, 5.65 mmol) was added. The resulting solution was stirred at ambient temperature for 1 hr. 50 ml water was added. The suspension was stirred for 10 min and filtered to afford 4-bromo-2-(5,6-dimethoxy-benzoimidazol-1-yl)-thiazole-5-carboxylic acid methyl ester (1.6 g, 73%) as a light brown solid. 1H NMR (300 MHz, CDCl3) δ 3.96 (s, 3H), 3.98 (s, 3H), 4.03 (s, 3H), 7.32 (s, 1H), 7.58 (s, 1H), 8.39 (s, 1H).

reactant | 5,6-Dimethoxy-1H-benzimidazole | 5.65 mmol, 1.0 g | COC1=CC2=C(NC=N2)C=C1OC | C9H10N2O2
reactant | NaH | 8.475 mmol, 339 mg | [H-].[Na+]
reactant | 2,4-Dibromo-thiazole-5-carboxylic acid methyl ester | 5.65 mmol, 1.7 g | COC(=O)C1=C(N=C(S1)Br)Br | C5H3Br2NO2S
reactant | water | 50 ml | O | H2O
solvent | 1-methyl-2-pyrrolidinone | 10 ml | CN1C(CCC1)=O | C5H9NO
product | 4-bromo-2-(5,6-dimethoxy-benzoimidazol-1-yl)-thiazole-5-carboxylic acid methyl ester | 1.6 g, 73% | COC(=O)C1=C(N=C(S1)N1C=NC2=C1C=C(C(=C2)OC)OC)Br | C14H12BrN3O4S
